US07371743B2
(h) 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-benzoic acid
Prepared analogously to Example 39d from methyl 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-benzoate and lithium hydroxide in a solvent mixture of water and ethanol.

reactant | methyl 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-benzoate | CC=1C=C(C(=O)OC)C=CC1N1CCOCCC1=O | C14H17NO4
reactant | lithium hydroxide | [OH-].[Li+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-methyl-4-(5-oxo-[1,4]oxazepan-4-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1CCOCCC1=O | C13H15NO4
